US05378689
2(R)-Benzyl-3-(N-benzyl-N-methylaminocarbonyl)propionic acid
80 mg (1.89 mmole) of lithium hydroxide were added to a solution of 400 mg (0.95 mmole) of 3-[2(R)-benzyl-4-(N-benzyl-N-methylamino)-4-oxobutyryl]-4(R)-isopropyl-2-oxazolidinone (prepared as described in Preparation 14) in a mixture of 10 ml of tetrahydrofuran and 4 ml of water, and the mixture was stirred at room temperature for 5 hours. At the end of this time, the solvent was removed by distillation under reduced pressure, and the resulting residue was mixed with methylene chloride. The mixture was then extracted with a 10% w/v aqueous solution of sodium hydroxide. The aqueous layer was adjusted to a pH value of 2.0 by the addition of citric acid and was then extracted with methylene chloride. The methylene chloride extracts were combined, dried over anhydrous magnesium sulfate and concentrated by distillation under reduced pressure, to afford a colorless oil. This oil was triturated with hexane and the powder which deposited was collected by filtration and then recrystallized from diisopropyl ether, to afford 84 mg of the title compound as needles, melting at 119°-121° C.

reactant | lithium hydroxide | 1.89 mmole, 80 mg | [OH-].[Li+]
reactant | 3-[2(R)-benzyl-4-(N-benzyl-N-methylamino)-4-oxobutyryl]-4(R)-isopropyl-2-oxazolidinone | 0.95 mmole, 400 mg | C(C1=CC=CC=C1)[C@@H](C(=O)N1C(OC[C@H]1C(C)C)=O)CC(=O)N(C)CC1=CC=CC=C1 | C25H30N2O4
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | water | 4 ml | O | H2O
product | 2(R)-Benzyl-3-(N-benzyl-N-methylaminocarbonyl)propionic acid | 84 mg | C(C1=CC=CC=C1)[C@@H](C(=O)O)CC(=O)N(C)CC1=CC=CC=C1 | C19H21NO3
